US08022093B2
A solution of 2′-hydroxy-3′-nitrobiphenyl-3-carboxylic acid (800 g, 3.2 mol) in methanol (5 L) was hydrogenated over 5% Pd/C (160 g) at room temperature for 8 hours. The reaction mixture was filtered, concentrated and slurried in THF (2.5 L) to give 3′-amino-2′-hydroxybiphenyl-3-carboxylic acid (690 g, 50.5%) as a brown solid. PXRD analysis provided the diffractogram as shown in FIG. 32.

reactant | 2′-hydroxy-3′-nitrobiphenyl-3-carboxylic acid | 3.2 mol, 800 g | OC1=C(C=CC=C1[N+](=O)[O-])C1=CC(=CC=C1)C(=O)O | C13H9NO5
solvent | methanol | 5 L | CO | CH4O
catalyst | Pd/C | 160 g | [Pd] | Pd
product | 3′-amino-2′-hydroxybiphenyl-3-carboxylic acid | 690 g, 50.5% | NC=1C(=C(C=CC1)C1=CC(=CC=C1)C(=O)O)O | C13H11NO3
